US07119114B1
A. 7-(3-Methylbutyloxy)anthra[1,9cd]pyrazol-6(2H)-one
Isopentyl bromide is added to a mixture of 3-(2-methoxyethoxymethyl)-7-hydroxyanthra[1,9cd]pyrazol-6(2H)-one and potassium carbonate in dimethylformamide at room temperature. After stirring the mixture for sixteen hours, water is added, and the mixture was extracted with ethyl acetate (×2). The combined organic layer is washed with aqueous sodium bicarbonate, water, 1N hydrochloric acid, and brine, dried and evaporated. The reside is taken in 6N hydrochloric acid and heated at 80° C. for 4 hours. After cooling, the mixture is extracted with ethyl acetate (×2), and the combined organic layer is washed with brine, dried, and evaporated. The residue is purified by column chromatography to afford the title compound as yellow solid.

reactant | Isopentyl bromide | C(CC(C)C)Br | C5H11Br
reactant | 3-(2-methoxyethoxymethyl)-7-hydroxyanthra[1,9cd]pyrazol-6(2H)-one | COCCOCC1=CC=C2C(C3=C(C=CC=C3C=3C2=C1NN3)O)=O | C18H16N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-(3-Methylbutyloxy)anthra[1,9cd]pyrazol-6(2H)-one | CC(CCOC1=C2C(C3=CC=CC=4NN=C(C43)C2=CC=C1)=O)C | C19H18N2O2
